US07256295B2
2,6-Dichloropyridine, 25.0 gm (0.168 mole) was added slowly under constant stirring to concentrated sulfuric acid at 20°–25° C. To this solution, 75.0 gm of concentrated nitric acid (98.0%) was added slowly, keeping the reaction temperature below 50° C. After the addition, the resulting mixture was heated to 100°–105° C. for 5.0 hrs. The progress of the reaction was monitored by TLC. After the reaction was over, the reaction mixture was cooled to 50° C. and poured in ice water. The resulting precipitate was filtered and washed with water. The wet cake thus obtained was dried to give 24.5 gm of 2,6-dichloro-3-nitropyridine. The yield of 2,6-dichloro-3-nitropyridine was 75.38% and the GC purity was 99.5%.

reactant | 2,6-Dichloropyridine | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 75.0 gm | [N+](=O)(O)[O-] | HNO3
product | 2,6-dichloro-3-nitropyridine | 24.5 gm | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
